US05929117
Methyl 3-(3,4-Dimethoxyphenyl)-3-phenylacrylate was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-dimethoxybenzophenone (4.8 g, 20 mmol), trimethylphosphonoacetate (4.1 g, 22 mmol) and lithium hexamethyldisilazide (22 mL, 22 mmol, 1 M) with a reaction time of 138 hours at reflux. The crude mixture was purified by flash column chromatography (silica gel, 1% ethyl acetate/methylene chloride) to afford 14.39 g (73%) of a mixture of the E and Z isomers as an oil. The isomers were separated by additional purification (silica gel, 1% ethyl acetate/methylene chloride) to afford pure samples of each of the isomers.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxybenzophenone | 20 mmol, 4.8 g | COC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC | C15H14O3
reactant | trimethylphosphonoacetate | 22 mmol, 4.1 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | lithium hexamethyldisilazide | 22 mmol, 1 M, 22 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | Methyl 3-(3,4-Dimethoxyphenyl)-3-phenylacrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC=CC=C1 | C18H18O4
